US07704971B2
(5-ethynyluracil (EU))
A solution of 5-iodouracil (8 g, 30 mmol) in redistilled triethylamine (500 mL) and dry DMF (10 mL) was degassed with oxygen-free nitrogen for 15 minutes. Bis(triphenylophosphine)palladium (II) chloride (0.5 g), copper (I) iodide (0.5 g) and trimethylsilylacetylene (10 g, 102 mmol) were then added and the mixture was heated with stirring at 50° C. for 24 hours. The cooled reaction mixture was filtered, the filtrate evaporated to dryness and the residue dissolved in dichloromethane (500 mL). The organic solution was washed with a 2% aqueous solution of disodium EDTA (3×250 mL), water (3×200 mL), dried (Na2SO4) and evaporated to dryness. The residue was triturated with ethanol to give the first crop of the title compound. The solid filtered from the reaction mixture was also found to contain the required product but in a more impure form and so was worked up as above in a separate batch to give a second crop.

reactant | 5-iodouracil | 30 mmol, 8 g | IC=1C(NC(NC1)=O)=O | C4H3IN2O2
reactant | oxygen | O=O | O2
reactant | trimethylsilylacetylene | 102 mmol, 10 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 500 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.5 g | [Cu]I
product | 5-ethynyluracil | C(#C)C=1C(NC(NC1)=O)=O | C6H4N2O2
